US05240925
To a flask was added 20 g. (0.1346 mole) of (2-methoxyphenyl)acetonitrile, 25 g. (0.1346 mole) of 2-(bromomethyl)tetrahydro-2H-pyran, and 200 ml. of DMSO. The mixture was stirred for five minutes at room temperature and to the resultant solution was added 22 g. (0.2692 mole) of 50% aqueous sodium hydroxide over 30 minutes with the reaction temperature being allowed to exotherm to 60° C. The reaction was stirred an additional two hours, then cooled, water added and the organic material extracted with ether. The combined ether extracts were then washed with water, dried, filtered, and the ether distilled. The organic residue wss fractionally distilled to obtain 27 g. (82% yield) of the 2-(2-methoxyphenyl)-3-(tetrahydropyran-2-yl)propionitrile boiling 145°-160° C. at 5 mm of Hg.

reactant | (2-methoxyphenyl)acetonitrile | 0.1346 mole | COC1=C(C=CC=C1)CC#N | C9H9NO
reactant | 2-(bromomethyl)tetrahydro-2H-pyran | 0.1346 mole | BrCC1OCCCC1 | C6H11BrO
reactant | DMSO | CS(=O)C | C2H6OS
reactant | sodium hydroxide | 0.2692 mole | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(2-methoxyphenyl)-3-(tetrahydropyran-2-yl)propionitrile | 82% yield | COC1=C(C=CC=C1)C(C#N)CC1OCCCC1 | C15H19NO2
